US07196080B2
To a THF (5 ml) and methanol (5 ml) mixed solution of 1.01 g of ethyl 3-(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl }phenyl)propanoate was added 5 ml of a 1M aqueous sodium hydroxide solution, followed by 1 hour of stirring at room temperature. To the reaction solution was added 5 ml of a 1M aqueous hydrochloric acid solution, followed by extraction with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. After the solvent was evaporated, thus obtained crude crystals were recrystallized from ethanol to obtain 673 mg of 3-(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}phenyl) propanoic acid as colorless crystals.

reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | ethyl 3-(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl }phenyl)propanoate | 1.01 g | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)CCC(=O)OCC | C29H33N3O5
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 3-(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}phenyl) propanoic acid | 673 mg | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)CCC(=O)O | C27H29N3O5
